* 4-to-1 MUX using NAND3 + NAND4 with stack compensation - 8 test cases
.include MOSFET_models_0p5_0p18-4.inc
.include inv.net
.include nand3.net
.include nand4.net

* Supply
V1 vdd 0 1.8

* Test cases (40ns each, 320ns total)
* t(ns)   0    40    80    120   160   200   240   280
* TC      1    2     3     4     5     6     7     8
* D0      1    0     1     0     1     0     1     0
* D1      0    1     0     1     0     1     0     1
* D2      1    0     1     0     1     0     1     0
* D3      0    1     0     1     0     1     0     1
* S0      0    0     1     1     0     0     1     1
* S1      0    0     0     0     1     1     1     1
* Expect  1    0     0     1     1     0     0     1

Vd0 d0v 0 PWL(0 1.8 39.99n 1.8 40n 0 79.99n 0 80n 1.8 119.99n 1.8 120n 0 159.99n 0 160n 1.8 199.99n 1.8 200n 0 239.99n 0 240n 1.8 279.99n 1.8 280n 0 320n 0)
Vd1 d1v 0 PWL(0 0 39.99n 0 40n 1.8 79.99n 1.8 80n 0 119.99n 0 120n 1.8 159.99n 1.8 160n 0 199.99n 0 200n 1.8 239.99n 1.8 240n 0 279.99n 0 280n 1.8 320n 1.8)
Vd2 d2v 0 PWL(0 1.8 39.99n 1.8 40n 0 79.99n 0 80n 1.8 119.99n 1.8 120n 0 159.99n 0 160n 1.8 199.99n 1.8 200n 0 239.99n 0 240n 1.8 279.99n 1.8 280n 0 320n 0)
Vd3 d3v 0 PWL(0 0 39.99n 0 40n 1.8 79.99n 1.8 80n 0 119.99n 0 120n 1.8 159.99n 1.8 160n 0 199.99n 0 200n 1.8 239.99n 1.8 240n 0 279.99n 0 280n 1.8 320n 1.8)
Vs0 s0v 0 PWL(0 0 79.99n 0 80n 1.8 159.99n 1.8 160n 0 239.99n 0 240n 1.8 320n 1.8)
Vs1 s1v 0 PWL(0 0 159.99n 0 160n 1.8 320n 1.8)

* Select Inverters
X10 s0v s0b vdd 0 inv
X11 s1v s1b vdd 0 inv

* Four NAND3 gates - one per data input
X1 d0v s1b s0b A0 vdd 0 nand3
X2 d1v s1b s0v A1 vdd 0 nand3
X3 d2v s1v s0b A2 vdd 0 nand3
X4 d3v s1v s0v A3 vdd 0 nand3

* NAND4 combiner
X5 A0 A1 A2 A3 vout vdd 0 nand4

.tran 0.01n 320n

.meas TRAN avg_power AVG (I(V1)*1.8) FROM=0 TO=320n

.end