* 4x1 MUX
.include MOSFET_models_0p5_0p18-4.inc
.include inv.net
.include nand3.net
.include nand4.net

* Supply
V1 vdd 0 1.8


Vd0 d0v 0 PWL(0 1.8 39.99n 1.8 40n 0 79.99n 0 80n 1.8 119.99n 1.8 120n 0 159.99n 0 160n 1.8 199.99n 1.8 200n 0 239.99n 0 240n 1.8 279.99n 1.8 280n 0 320n 0)
Vd1 d1v 0 PWL(0 0 39.99n 0 40n 1.8 79.99n 1.8 80n 0 119.99n 0 120n 1.8 159.99n 1.8 160n 0 199.99n 0 200n 1.8 239.99n 1.8 240n 0 279.99n 0 280n 1.8 320n 1.8)
Vd2 d2v 0 PWL(0 1.8 39.99n 1.8 40n 0 79.99n 0 80n 1.8 119.99n 1.8 120n 0 159.99n 0 160n 1.8 199.99n 1.8 200n 0 239.99n 0 240n 1.8 279.99n 1.8 280n 0 320n 0)
Vd3 d3v 0 PWL(0 0 39.99n 0 40n 1.8 79.99n 1.8 80n 0 119.99n 0 120n 1.8 159.99n 1.8 160n 0 199.99n 0 200n 1.8 239.99n 1.8 240n 0 279.99n 0 280n 1.8 320n 1.8)
Vs0 s0v 0 PWL(0 0 79.99n 0 80n 1.8 159.99n 1.8 160n 0 239.99n 0 240n 1.8 320n 1.8)
Vs1 s1v 0 PWL(0 0 159.99n 0 160n 1.8 320n 1.8)

* Select Inverters
X10 s0v s0b vdd 0 inv
X11 s1v s1b vdd 0 inv

* Four NAND3 gates - one per data input
X1 d0v s1b s0b A0 vdd 0 nand3
X2 d1v s1b s0v A1 vdd 0 nand3
X3 d2v s1v s0b A2 vdd 0 nand3
X4 d3v s1v s0v A3 vdd 0 nand3

* NAND4 combiner
X5 A0 A1 A2 A3 vout vdd 0 nand4

.tran 0.01n 320n

* Propagation delay measurements
* tpHL: at t=40ns, D0 falls 1->0 while S1=S0=0, output should fall
.meas TRAN tpHL TRIG V(d0v) VAL=0.9 FALL=1 TARG V(vout) VAL=0.9 FALL=1

* tpLH: at t=80ns, S0 rises 0->1 selecting D1 (which is high), output should rise
.meas TRAN tpLH TRIG V(s0v) VAL=0.9 RISE=1 TARG V(vout) VAL=0.9 RISE=1

* Average power dissipation
.meas TRAN avg_power AVG (I(V1)*1.8) FROM=0 TO=320n

.end
